US07259160B2
[(2R)-1-(carbo-tert-butyloxy)pyrrolidin-2-yl]acetonitrile (1.0 g, 4.75 mmol) was stirred in TFA and dichloromethane (1:1 mixture, 12 mL) at room temperature for 3 hr. The solvent was removed under reduced pressure and the residue was taken up in acetonitrile (25 mL). To this solution was added pyruvic acid (450 mg, 5.0 mmol), followed by HOBT (0.8 g, 6 mmol), EDC (1.0 g, 5.5 mmol), and triethylamine (1.0 mL, 7.0 mmol). The reaction was stirred at room temperature overnight. After removal of solvent, the crude product was purified by flash chromatography on a Biotage® system (silica, 30-90% ethyl acetate in hexanes) to yield [(2R)-1-pyruvoylpyrrolidin-2-yl]acetonitrile as yellow oil. MS (M+Na): 203.2

reactant | pyruvic acid | 5.0 mmol, 450 mg | C(C(=O)C)(=O)O | C3H4O3
reactant | HOBT | 6 mmol, 0.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 5.5 mmol, 1.0 g
reactant | triethylamine | 7.0 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | [(2R)-1-pyruvoylpyrrolidin-2-yl]acetonitrile | C(C(=O)C)(=O)N1[C@H](CCC1)CC#N | C9H12N2O2
